US05500426
1-methyl-2-(4,5-dihydro[1H]imidazol-2-yl)-4-(2-chlorobenzyl)piperazine
Yield: 62% (from 1-methyl-4-(2-chlorobenzyl)-2-ethoxycarbonylpiperazine) Melting point: 140°-142° C. (decomposition) (trihydrochloride monohydrate)

reactant | 1-methyl-4-(2-chlorobenzyl)-2-ethoxycarbonylpiperazine | CN1C(CN(CC1)CC1=C(C=CC=C1)Cl)C(=O)OCC | C15H21ClN2O2
reactant | trihydrochloride monohydrate | O.Cl.Cl.Cl
product | 1-methyl-2-(4,5-dihydro[1H]imidazol-2-yl)-4-(2-chlorobenzyl)piperazine | CN1C(CN(CC1)CC1=C(C=CC=C1)Cl)C=1NCCN1 | C15H21ClN4
